US05834434
4-nitro-2-phenylbenzoyl methionine methyl ester
4-nitro-2-phenylbenzoic acid (0.30 g, 1.23 mmol), methionine methyl ester hydrochloride salt (0.27 g, 1.35 mmol), EDCI (0.26 g, 1.35 mmol), HOBT (0.18 g, 1.35 mmol) and Et3N (0.19 ml) in dry CH2Cl2 (4.9 ml) were reacted according to the above procedure and worked up as described for N-BOC-4-aminobenzoyl methionine methyl ester in Example 1. After recrystallization from ethyl acetate and hexanes, 0.41 g (85.5%) of pure product was isolated. mp 98°-101° C.; 1H NMR (CDCl3) 1.62-1.73 (1 H, m), 1.79-1.88 (1 H, m), 1.91 (3 H, s), 1.99 (2 H, t, J=7.2 Hz), 3.59 (3 H, s), 4.53 (1 H, m), 6.45 (1 H, d, J=7.8 Hz), 7.33-7.40 (5 H, m), 7.67 (1 H, d, J=8.3 Hz), 8.07-8.12 (2 H, m); 13C NMR (CDCl3) 14.92, 29.11, 30.67, 51.51, 52.29, 121.86, 124.74, 128.27, 128.60, 128.69, 129.52, 137.50, 140.56, 141.02, 148.09, 167.23, 171.23; m/ z (FAB) , 389 (M+1).

reactant | 4-nitro-2-phenylbenzoic acid | 1.23 mmol, 0.30 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C13H9NO4
reactant | methionine methyl ester hydrochloride salt | 1.35 mmol, 0.27 g | Cl.COC([C@@H](N)CCSC)=O
reactant | EDCI | 1.35 mmol, 0.26 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.35 mmol, 0.18 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-BOC-4-aminobenzoyl methionine methyl ester | COC([C@@H](N(C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)N)=O)CCSC)=O | C18H26N2O5S
solvent | CH2Cl2 | 4.9 ml | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.19 ml | CCN(CC)CC | C6H15N
product | 4-nitro-2-phenylbenzoyl methionine methyl ester | 0.41 g, 85.5% | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O)CCSC)=O | C19H20N2O5S
